US08030334B2
3-Trifluoromethyl-5-bromopyridine and N-Boc-6-chloro-indole-2-boronic acid are processed according to the procedure described in Example 91 to give 6-chloro-2-(5-trifluoromethyl-pyridin-3-yl)-1H-indole. (ESI) m/z 297.0 (M+H)+.

reactant | 3-Trifluoromethyl-5-bromopyridine | FC(C=1C=NC=C(C1)Br)(F)F | C6H3BrF3N
reactant | N-Boc-6-chloro-indole-2-boronic acid | C(=O)(OC(C)(C)C)N1C(=CC2=CC=C(C=C12)Cl)B(O)O | C13H15BClNO4
product | 6-chloro-2-(5-trifluoromethyl-pyridin-3-yl)-1H-indole | ClC1=CC=C2C=C(NC2=C1)C=1C=NC=C(C1)C(F)(F)F | C14H8ClF3N2
